US05760059
2-quinolinylhydrazine
To a solution of 2-chloroquinoline (15 g) in ethanol (150 ml) was added hydrazine hydrate (40 ml) the resulting solution was heated at reflux for 6 hrs then diluted with water (400 ml) and extracted with diethyl ether (3×200 ml). The collected organic phase was washed with brine (300 ml), dried and concentrated under vacuum to afforg the title compound as a solid (13 g)

reactant | 2-chloroquinoline | 15 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | hydrazine hydrate | 40 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | 2-quinolinylhydrazine | N1=C(C=CC2=CC=CC=C12)NN | C9H9N3
